US08309721B2
0.17 g of potassium carbonate and 0.64 ml of 3-amino-1-propanol are successively added to a solution of 0.18 g of 2-fluoro-4-{4-[6-(trifluoromethyl)pyridin-3-yl]-9H-carbazol-9-yl}benzonitrile in 2 ml of dimethyl sulphoxide. The reaction mixture is heated at 90° C. for 1 hour 20 minutes in a microwave, and then 4.2 ml of ethanol are added, followed by 0.8 ml of a 1N solution of sodium hydroxide and 0.8 ml of 30% aqueous hydrogen peroxide. The reaction mixture is stirred at ambient temperature for 2 hours and then diluted with distilled water. The aqueous phase is extracted twice with ethyl acetate and the combined organic phases are washed with water and a saturated solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure. The white solid obtained is purified by silica gel chromatography, elution being carried out with a mixture of dichloromethane, acetonitrile and methanol (96/2/2 by volume) so as to give 24 mg of 2-[(3-hydroxypropyl)amino]-4-{4-[6-(trifluoromethyl)pyridin-3-yl]-9H-carbazol-9-yl}benzamide in the form of a white solid, the characteristics of which are the following

reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-amino-1-propanol | 0.64 ml | NCCCO | C3H9NO
reactant | 2-fluoro-4-{4-[6-(trifluoromethyl)pyridin-3-yl]-9H-carbazol-9-yl}benzonitrile | 0.18 g | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC(=CC1)C(F)(F)F | C25H13F4N3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | 0.8 ml | OO | H2O2
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ethanol | 4.2 ml | C(C)O | C2H6O
product | 2-[(3-hydroxypropyl)amino]-4-{4-[6-(trifluoromethyl)pyridin-3-yl]-9H-carbazol-9-yl}benzamide | 24 mg | OCCCNC1=C(C(=O)N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC(=CC1)C(F)(F)F | C28H23F3N4O2
